### PR TITLE
feat(ErdosProblems): 100

### LINKED ISSUE #330: Erdős Problem 100
### What is the conjecture
    
https://www.erdosproblems.com/100

  Let $A$ be a set of $n$ points in $\mathbb{R}^2$ such that all pairwise distances are at least $1$ and if two distinct distances differ then they differ by at least $1$. Is the diameter of $A$ $\gg n$?

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by cyb3r17**
closes #330

### CODE REVIEW

File: FormalConjectures/ErdosProblems/100.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+-/
+
+open Set Metric
+
+namespace Erdos100
+
+/-- If two distances in A differ, they differ by at least 1. -/
+def DistancesSeparated (A : Finset (ℝ × ℝ)) : Prop :=
+  ∀ p₁ q₁ p₂ q₂, p₁ ∈ A → q₁ ∈ A → p₂ ∈ A → q₂ ∈ A →
+    p₁ ≠ q₁ → p₂ ≠ q₂ →
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/100.lean]: $p_1 \neq q_1$ and $p_2 \neq q_2$ is redudant

File: FormalConjectures/ErdosProblems/100.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+
+/-- Let $A$ be a set of $n$ points in $\mathbb{R}^2$ such that all pairwise distances
+are at least 1 and if two distinct distances differ then they differ by at least 1.
+Is the diameter of $A$ much greater than $n$? -/
+@[category research open, AMS 52]
+theorem erdos_100 :
+    answer(sorry) ↔ ∀ C : ℝ, ∃ N : ℕ, ∀ n ≥ N, ∀ A : Finset (ℝ × ℝ),
+      A.card = n →
+      (∀ p q, p ∈ A → q ∈ A → p ≠ q → dist p q ≥ 1) →
+      DistancesSeparated A →
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]:
```suggestion
      DistancesSeparated A →
```
The latter implies the former, right?

File: FormalConjectures/ErdosProblems/100.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+/-- If two distances in A differ, they differ by at least 1. -/
+def DistancesSeparated (A : Finset (ℝ × ℝ)) : Prop :=
+  ∀ p₁ q₁ p₂ q₂, p₁ ∈ A → q₁ ∈ A → p₂ ∈ A → q₂ ∈ A →
+    dist p₁ q₁ ≠ dist p₂ q₂ →
+    |dist p₁ q₁ - dist p₂ q₂| ≥ 1
+
+
+/-- Let $A$ be a set of $n$ points in $\mathbb{R}^2$ such that all pairwise distances
+are at least 1 and if two distinct distances differ then they differ by at least 1.
+Is the diameter of $A$ much greater than $n$? -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]: That's not what >> means

File: FormalConjectures/ErdosProblems/100.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+@[category research open, AMS 52]
+theorem erdos_100 :
+    answer(sorry) ↔ ∀ C : ℝ, ∃ N : ℕ, ∀ n ≥ N, ∀ A : Finset (ℝ × ℝ),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]:
```suggestion
    answer(sorry) ↔ ∃ C > (0 : ℝ), ∀\^f n in atTop, ∀ A : Finset (ℝ × ℝ),
```

**Comment by cyb3r17** [comment]
I couldn't find references to some partial results, fixed suggestions

File: FormalConjectures/ErdosProblems/100.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+sorry
+
+/-- Stronger conjecture: diameter $\geq n - 1$ for sufficiently large $n$. -/
+@[category research open, AMS 52]
+theorem erdos_100_strong :
+    ∀ᶠ n in atTop, ∀ A : Finset (ℝ × ℝ),
+      A.card = n →
+      DistancesSeparated A →
+      diam (A : Set (ℝ × ℝ)) ≥ n - 1 := by
+sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]:
```suggestion
  sorry
```
same below

File: FormalConjectures/ErdosProblems/100.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
...
+
+/-- From [Kanold]: diameter $\geq n^{3/4}$. -/
+@[category research open, AMS 52]
+theorem erdos_100_kanold :
+    ∃ C > (0 : ℝ), ∀ᶠ n in atTop, ∀ A : Finset (ℝ × ℝ),
+      A.card = n →
+      DistancesSeparated A →
+      diam (A : Set (ℝ × ℝ)) ≥ C * (n : ℝ) ^ (3 / 4 : ℝ) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]: Doesn't seem like there is a constant in front
```suggestion
      diam (A : Set (ℝ × ℝ)) ≥ (n : ℝ) ^ (3 / 4 : ℝ) := by
```

File: FormalConjectures/ErdosProblems/100.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+/-- Stronger conjecture: diameter $\geq n - 1$ for sufficiently large $n$. -/
+@[category research open, AMS 52]
+theorem erdos_100_strong :
+    ∀ᶠ n in atTop, ∀ A : Finset (ℝ × ℝ),
+      A.card = n →
+      DistancesSeparated A →
+      diam (A : Set (ℝ × ℝ)) ≥ n - 1 := by
+sorry
+
+/-- From [Kanold]: diameter $\geq n^{3/4}$. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]:
```suggestion
/-- From [Kanold]: diameter $\geq n^{3/4}$.
TODO: find reference -/
```

File: FormalConjectures/ErdosProblems/100.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+
+/-!
+# Erdős Problem 100
+*References:*
+* [erdosproblems.com/100](https://www.erdosproblems.com/100)
+* [Kanold](No references found)
+* [GuKa15](Guth, Larry and Katz, Nets Hawk, On the Erd\H{o}s distinct distances problem in the plane. Ann. of Math. (2) (2015), 155-190.)
+* [Piepmeyer](No references found)
+-/
+open Set Metric Filter Real
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean:28]:
```suggestion

open Set Metric Filter Real
open scoped EuclideanGeometry
```

File: FormalConjectures/ErdosProblems/100.lean [hunk 9]
```diff
@@ -0,0 +1,80 @@
...
+
+namespace Erdos100
+
+/-- If two distances in A differ, they differ by at least 1. -/
+def DistancesSeparated (A : Finset (ℝ × ℝ)) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]: You need to use
```suggestion
def DistancesSeparated (A : Finset ℝ\^2) : Prop :=
```
instead. Same below

File: FormalConjectures/ErdosProblems/100.lean [hunk 10]
```diff
@@ -24,57 +24,61 @@ import FormalConjectures.Util.ProblemImports
...
 -/
+
 open Set Metric Filter Real
+open scoped EuclideanGeometry
 
 namespace Erdos100
 
 /-- If two distances in A differ, they differ by at least 1. -/
-def DistancesSeparated (A : Finset (ℝ × ℝ)) : Prop :=
+def DistancesSeparated (A : Finset (ℝ²)) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/100.lean]:
```suggestion
def DistancesSeparated (A : Finset ℝ²) : Prop :=
```
and everywhere else
